US03941803
In the manner given in Example 1, 2',5 -dichloro-2-(5-methylimidazol-1-yl)benzophenone is heated in a bomb to 150° C. with 37% aqueous formaldehyde solution to give 2',5-dichloro-2-[2-(hydroxymethyl)-5-methylimidazol-1-yl]benzophenone.

reactant | 2',5 -dichloro-2-(5-methylimidazol-1-yl)benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C=NC=C1C)=O | C17H12Cl2N2O
reactant | formaldehyde | C=O | CH2O
product | 2',5-dichloro-2-[2-(hydroxymethyl)-5-methylimidazol-1-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NC=C1C)CO)=O | C18H14Cl2N2O2
